US04752609
3-(3-Pyridylcarbonyl)-2-oxindole
To a solution of 2.1 g (0.090 mole) of sodium metal in 100 ml of ethanol, was added 10.0 g (0.075 mole) of 2-oxindole, followed by 13.6 g (0.090 mole) of ethyl nicotinate. The resulting slurry was heated under reflux for 3 hours and then the mixture was cooled and filtered. The residue was discarded, and the filtrate was evaporated in vacuo. The residue thus obtained was dissolved in ca. 150 ml of water, and the aqueous solution was washed with chloroform. To the aqueous solution was then added 5.8 ml of glacial acetic acid and the resulting mixture was cooled in an ice-bath. The solid was recovered by filtration and recrystallized from ethanol to give 3.3 g of the title compound as yellow needles, m.p. 169°-170° C.

reactant | sodium | 0.090 mole, 2.1 g | [Na] | Na
reactant | 2-oxindole | 0.075 mole, 10.0 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | ethyl nicotinate | 0.090 mole, 13.6 g | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | ca. 150 ml | O | H2O
product | 3-(3-Pyridylcarbonyl)-2-oxindole | 3.3 g | N1=CC(=CC=C1)C(=O)C1C(NC2=CC=CC=C12)=O | C14H10N2O2
